US05523404
Ethyl 3-amino-2-chloro-4-methyl-2-pentenoate
59.5 g (0.31 mol) of ethyl 2-chloro-4-methyl-3-oxo-pentanoate are reacted with 59.8 g (0.78 mol) of ammonium acetate in 120 ml of methanol and worked up in analogy to Example 2. Yield: 88.0% [GC]

reactant | ethyl 2-chloro-4-methyl-3-oxo-pentanoate | 0.31 mol, 59.5 g | ClC(C(=O)OCC)C(C(C)C)=O | C8H13ClO3
reactant | ammonium acetate | 0.78 mol, 59.8 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 120 ml | CO | CH4O
product | Ethyl 3-amino-2-chloro-4-methyl-2-pentenoate | Yield: 88.0% | NC(=C(C(=O)OCC)Cl)C(C)C | C8H14ClNO2
